US07271268B1
A 50 mL 3-neck round bottle flask was equipped with condenser, an addition funnel and a thermometer. Charge 2 g of 1,1-cyclopropyldimethanol, 5 g of acetic anhydride, 2 mL of methylene chloride and 0.77 g of pyridine to the flask. The reaction mixture was heated to about 90˜95° C. and kept continuous stirring about 1 hour. When the reaction was completed, the mixture was cooled and the 14.4 g of 33% HBr in glacial acetic acid was added while maintain below 20° C. After the addition, the reaction mixture was stirred about 6 hours and then 2 mL of methylene chloride and 10 mL of water was added into the flask. The layers were separated and the aqueous layer was extracted twice with 4 mL of methylene chloride. Combined the organic layers and washed twice with 6 mL of water and then neutralized to pH=8 with sodium carbonate solution. The organic layers were concentrated to obtain 3.3 g of crude [1-(bromomethyl)cyclopropyl]methyl acetate.

reactant | 1,1-cyclopropyldimethanol | 2 g | C1CC1(CO)CO | C5H10O2
reactant | acetic anhydride | 5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HBr | 14.4 g | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.77 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | [1-(bromomethyl)cyclopropyl]methyl acetate | 3.3 g | C(C)(=O)OCC1(CC1)CBr | C7H11BrO2
